US07091228B2
To a solution of methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl) carbonyl]cyclobutane-carboxylate (100 mg, 0.32 mmol) in n-butanol (15 mL) was added 2,6-dichloro-1,3-benzothiazole (396 mg, 1.94 mmol), and the resulting reaction mixture was heated at 90° C. overnight. The mixture was evaporated to dryness and the residue was brought up in MeOH. Then 1 N aqueous NaOH (1.0 mL, 1.0 mmol) was added to the suspension, and the reaction mixture was stirred at 50° C. overnight. The reaction mixture was concentrated, and the residue was suspended in water. Concentrated HCl was added to adjust the acidity to pH 1, and the precipitate that formed was collected by filtration, washed with water and MeOH, and dried in a vacuum oven to give trans-2-({4′-[(6-chloro-1,3-benzothiazol-2-yl) amino]-1,1′-biphenyl-4-yl}carbonyl)cyclobutanecarboxylic acid (16 mg, 10%). LC-MS ret. time 3.69; m/z 463.1 (MH+); 1H NMR (400 MHz, DMSO-d6) δ 2.01–2.23 (m, 3 H), 2.32 (m, 1H), 3.43 (m, 1H), 4.32 (m, 1H), 7.35 (m, 1H), 7.31 (m, 1H), 7.62 (d, 1H), 7.81 (m, 4H), 7.90 (d, 2H), 7.98 (m, 3H), 10.77 (s, 1H), 12.29 (s, 1H).

reactant | methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl) carbonyl]cyclobutane-carboxylate | 0.32 mmol, 100 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@H]1[C@@H](CC1)C(=O)OC | C19H19NO3
reactant | 2,6-dichloro-1,3-benzothiazole | 1.94 mmol, 396 mg | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | NaOH | 1.0 mmol, 1 N, 1.0 mL | [OH-].[Na+]
solvent | n-butanol | 15 mL | C(CCC)O | C4H10O
product | trans-2-({4′-[(6-chloro-1,3-benzothiazol-2-yl) amino]-1,1′-biphenyl-4-yl}carbonyl)cyclobutanecarboxylic acid | 16 mg, 10% | ClC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CC2)C(=O)O)C=C1 | C25H19ClN2O3S
